US05196431
Methyl iodide (1.05 g, 7.4 mmol) is added to an ethanol (50 mL) solution of N-[4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]thiourea (2.0 g, 7.1 mmol) and the mixture is heated at reflux under argon for 2.5 hours. The ethanol is evaporated under reduced pressure and the residue is taken up in 50 mL EtOAc. The EtOAc solution is washed with saturated NaHCO3 (3×50 mL) and 50 mL of brine. Drying over MgSO4 and evaporation of solvent gives an off-white solid. Recrystallization from ether/hexane gives 1.5 g (71%) of N-[4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-S methyl isothiourea; mp 163°-165° C.

reactant | Methyl iodide | 7.4 mmol, 1.05 g | CI | CH3I
reactant | N-[4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]thiourea | 7.1 mmol, 2.0 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)NC(=S)N | C13H22N4OS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-[4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-S methyl isothiourea | 1.5 g, 71% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)NC(SC)=N | C14H24N4OS
